US07253286B2
5-[6-(4-Benzyloxyphenyl)-7-(2-trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]indole-1-carboxylic ethylamide
After dissolving 6-(4-benzyloxyphenyl)-4-(1H-5-indolyloxy)-7-(2-trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidine (81 mg) in 1 ml of dimethylformamide, 7 mg of sodium hydride (60% dispersion) was added, the mixture was stirred at room temperature for 5 minutes, and then 31 mg of phenyl ethylcarbamate was added and the mixture was stirred for another 2 hours. Water was then added, and ethyl acetate was used for liquid separation and extraction. The organic layer was concentrated and subjected to silica gel column chromatography (hexane-ethyl acetate) to obtain 62 mg of the title compound.

reactant | 6-(4-benzyloxyphenyl)-4-(1H-5-indolyloxy)-7-(2-trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidine | 81 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC2=C(N=CN=C2OC=2C=C3C=CNC3=CC2)N1COCC[Si](C)(C)C | C33H34N4O3Si
reactant | sodium hydride | 7 mg | [H-].[Na+]
reactant | phenyl ethylcarbamate | 31 mg | C(C)NC(OC1=CC=CC=C1)=O | C9H11NO2
reactant | Water | O | H2O
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 5-[6-(4-Benzyloxyphenyl)-7-(2-trimethylsilanylethoxymethyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yloxy]indole-1-carboxylic ethylamide | 62 mg | C(C)NC(=O)N1C=CC2=CC(=CC=C12)OC=1C2=C(N=CN1)N(C(=C2)C2=CC=C(C=C2)OCC2=CC=CC=C2)COCC[Si](C)(C)C | C36H39N5O4Si
